US08445512B2
A 2M aq. LiOH sol. (9.3 ml) was added to a solution of 980 mg (3.1 mmol) 2-(methoxymethyl)-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid methyl ester in THF (25 ml) and the mixture was subsequently heated to 60° C. for 16 h. The THF was removed as far as possible in a vacuum and the obtained aqueous solution was washed with ether, the pH was set to 2 with 2M hydrochloric acid and dilution was performed with EtOAc. The organic phase was separated and washed with brine, dried over MgSO4 and concentrated in a vacuum. 612 mg (2.0 mmol, 66%) 2-(methoxymethyl)-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid was obtained as a residue. The raw product was further converted without additional purification.

reactant | LiOH | 2M, 9.3 ml | [Li+].[OH-]
reactant | 2-(methoxymethyl)-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid methyl ester | 3.1 mmol, 980 mg | COC(=O)C=1C(=NC2=CC(=CC=C2C1C)C(F)(F)F)COC | C15H14F3NO3
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-(methoxymethyl)-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid | 2.0 mmol, 612 mg, 66% | COCC1=NC2=CC(=CC=C2C(=C1C(=O)O)C)C(F)(F)F | C14H12F3NO3
